US09290487B2
Step 1 Synthesis of 1-bromo-4,5-difluoro-2-(methylthio)benzene
Potassium carbonate (310 mg, 2.22 mmol) and iodomethane (0.138 mL, 2.22 mmol) were added to a solution (10 mL) of 2-bromo-4,5-difluorothiophenol (400 mg, 1.78 mmol) in DMF, and stirred at room temperature overnight. After diluted with ethyl acetate, the resultant was washed with water and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was distilled away, and the resulting residue was purified by silica gel chromatography (hexane/ethyl acetate) to thus obtain the title compound.

reactant | Potassium carbonate | 2.22 mmol, 310 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 2.22 mmol, 0.138 mL | IC | CH3I
reactant | 2-bromo-4,5-difluorothiophenol | 1.78 mmol, 10 mL, 400 mg | BrC1=C(C=C(C(=C1)F)F)S | C6H3BrF2S
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-bromo-4,5-difluoro-2-(methylthio)benzene | yield: 95% | BrC1=C(C=C(C(=C1)F)F)SC | C7H5BrF2S
